US04283418
N-Methyl-p-hydroxyphenylacetamide
To a solution of 7.6 g of p-hydroxyphenylacetic acid in 100 ml of acetonitrile were added 8.4 g of p-nitrophenol and 10.3 g of dicyclohexylcarbodiimide at room temperature with stirring, and the resulting crystals of dicyclohexylurea were filtered out. An ethereal solution of 7.8 g of methylamine was added to the filtrate containing p-nitrophenyl p-hydroxyphenylacetate, the mixture was allowed to stand to precipitate crystals. The crystals obtained were filtered out and washed with diethyl ether to obtain 4.0 g of the title compound.

reactant | p-hydroxyphenylacetic acid | 7.6 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | p-nitrophenol | 8.4 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | dicyclohexylcarbodiimide | 10.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-Methyl-p-hydroxyphenylacetamide | 4.0 g | CNC(CC1=CC=C(C=C1)O)=O | C9H11NO2
